US07622583B2
To a stirred suspension of N-[2-(2-amino-benzoyl)-5-chloro-pyridin-3-yl]-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide in pyridine (1 mL) was added methanesulfonyl chloride (26 mg, 0.226 mmol). After 2 h the reaction mixture was poured into 1 M HCl and the aqueous portions were subsequently extracted with EtOAc. The combined extracts were dried and concentrated under reduced pressure. The resulting residue was dissolved in THF (5 mL), treated with TBAF (1 M in THF, 200 μL, 0.200 mmol), and then stirred at room temperature for 3-4 h. The reaction mixture was subsequently poured into 1 M HCl and the aqueous layer was extracted with EtOAc. The combined organic extracts were dried (Na2SO4), filtered, and concentrated under reduced pressure to provide 4-chloro-N-[5-chloro-2-(2-methanesulfonylamino-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide. MS m/z: 634.0 (M+Na).

reactant | N-[2-(2-amino-benzoyl)-5-chloro-pyridin-3-yl]-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | NC1=C(C(=O)C2=NC=C(C=C2N(S(=O)(=O)C2=CC(=C(C=C2)Cl)C(F)(F)F)COC)Cl)C=CC=C1 | C21H16Cl2F3N3O4S
reactant | methanesulfonyl chloride | 0.226 mmol, 26 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 1 M | Cl | ClH
reactant | TBAF | 0.200 mmol, 1 M, 200 μL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | HCl | 1 M | Cl | ClH
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 4-chloro-N-[5-chloro-2-(2-methanesulfonylamino-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(C1=C(C=CC=C1)NS(=O)(=O)C)=O)C(F)(F)F | C22H18Cl2F3N3O6S2
